US05484689
Phenylglyoxal monohydrate (152 mg, 1 mM) and p-dimethoxybenzene (0.21 ml, 1.5 mM) were dissolved in dichloroethane (2 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 4 hours. Using the same procedure as in Example 1, 2',5'-dimethoxylbenzoin was obtained as an oil (219.4 mg, 79.2% yield).

reactant | Phenylglyoxal monohydrate | 1 mM, 152 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | p-dimethoxybenzene | 1.5 mM, 0.21 ml | COC1=CC=C(C=C1)OC | C8H10O2
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2',5'-dimethoxylbenzoin | O(C)C1=C(C(C(C2=CC=CC=C2)=O)O)C=C(C=C1)OC | C16H16O4
